US08389553B2
4-({Acetyl[(1-methyl-1H-1,2,3-triazol-4-yl)methyl]amino}methyl)-N-[2-amino-5-(2-thienyl)phenyl]benzamide
4-({Acetyl[(1-methyl-1H-1,2,3-triazol-4-yl)methyl]amino}methyl)benzoic acid (17.7 mg, 0.061 mmol), 1,1-dimethylethyl[2-({[4-(chloromethyl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate (22 mg, 0.074 mmol), HOBT (11 mg, 0.074 mmol) and EDC (12 mg, 0.074 mmol) were taken into DMF (409 ul) and stirred at 60° C. overnight. The reaction was diluted with EtOAc and washed with ½ saturated NaHCO3 3×, brine, dried (MgSO4) and concentrated to afford a residue taken into ca 1 mL DCM:TFA (2:1) and stirred for 2 h. This solution was concentrated and purified via HPLC (20-100% MeCN in water with 0.025% TFA) to afford fractions poured into sat. aq. NaHCO3 and extracted with EtOAc 2×. The combined organic layers were washed with brine, dried (MgSO4) and concentrated to afford the requisite material as a dark tan solid. 1H NMR (d6-DMSO, 600 MHz, 90° C.) δ 9.46 (br s, 1H), 8.00-7.90 (m, 3H), 7.50 (d, J=2.1 Hz, 1H), 7.32 (d, J=8.2 Hz, 2H), 7.29 (dd, J=5.3, 1.2 Hz, 1H), 7.24 (dd, J=8.5, 2.3 Hz, 1H), 7.17 (dd, J=3.5, 1.2 Hz, 1H), 7.01 (dd, J=5.0, 3.5 Hz, 1H), 6.81 (d, J=8.2 Hz, 1H), 4.94 (br s, 2H), 4.66-4.54 (m, 3H), 4.50 (s, 2H), 3.98 (s, 2H), 2.24-2.00 (m, 3H). MS: cal'd 461 (MH+), exp 461 (MH+).

reactant | 4-({Acetyl[(1-methyl-1H-1,2,3-triazol-4-yl)methyl]amino}methyl)benzoic acid | 0.061 mmol, 17.7 mg | C(C)(=O)N(CC=1N=NN(C1)C)CC1=CC=C(C(=O)O)C=C1 | C14H16N4O3
reactant | 1,1-dimethylethyl[2-({[4-(chloromethyl)phenyl]carbonyl}amino)-4-(2-thienyl)phenyl]carbamate | 0.074 mmol, 22 mg | CC(C)(C)N(C([O-])=O)C1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)CCl
reactant | HOBT | 0.074 mmol, 11 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.074 mmol, 12 mg
reactant | DCM TFA | ca 1 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 409 ul | CN(C)C=O | C3H7NO
product | 4-({Acetyl[(1-methyl-1H-1,2,3-triazol-4-yl)methyl]amino}methyl)-N-[2-amino-5-(2-thienyl)phenyl]benzamide | C(C)(=O)N(CC=1N=NN(C1)C)CC1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)N)C=C1 | C24H24N6O2S
